### PR TITLE
[Merged by Bors] - feat: super factorial

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mo271** [comment]
Plan to build on this adding
 - rewriting as product
 - relation to double factorial (mod p)
 - relation to determinant of Vandermonde matrix

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 1]
```diff
@@ -0,0 +1,50 @@
...
+
+* `Nat.super_factorial`: The super factorial.
+-/
+
+
+namespace Nat
+
+/-- `Nat.super_factorial n` is the super factorial of `n`. -/
+@[simp]
+def super_factorial : ℕ → ℕ
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:23]:
```suggestion
def superFactorial : ℕ → ℕ
```
Is the lean 4 convention

Comment (mo271) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean]: thanks, will change all places...

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 2]
```diff
@@ -0,0 +1,49 @@
...
+## Main declarations
+
+* `Nat.superFactorial`: The super factorial.
+-/
+
+
+namespace Nat
+
+/-- `Nat.superFactorial n` is the super factorial of `n`. -/
+@[simp]
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:22]: This seems like a bad idea to me, it makes the other lemmas redundant

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 3]
```diff
@@ -0,0 +1,49 @@
...
+variable {n : ℕ}
+
+@[simp]
+theorem superFactorial_zero : (sf 0) = 1 :=
+  rfl
+
+theorem superFactorial_succ (n : ℕ) : (sf n.succ) = (n + 1)! * (sf n) :=
+  rfl
+
+theorem superFactorial_one : (sf 1) = 1 :=
```
Comment (mo271) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:41]:
```suggestion

@[simp]
theorem superFactorial_one : (sf 1) = 1 :=
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 4]
```diff
@@ -0,0 +1,49 @@
...
+
+/-- `sf` notation for super factorial -/
+scoped notation  "sf" n => Nat.superFactorial n
+
+section SuperFactorial
+
+variable {n : ℕ}
+
+@[simp]
+theorem superFactorial_zero : (sf 0) = 1 :=
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:35]: Are the `()`s needed here? If so, I think you need to adjust the precedence.

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 5]
```diff
@@ -0,0 +1,49 @@
...
+  rfl
+
+theorem superFactorial_succ (n : ℕ) : (sf n.succ) = (n + 1)! * (sf n) :=
+  rfl
+
+theorem superFactorial_one : (sf 1) = 1 :=
+  rfl
+
+theorem superFactorial_two : (sf 2) = 2 :=
```
Comment (mo271) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:44]:
```suggestion

@[simp]
theorem superFactorial_two : (sf 2) = 2 :=
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 6]
```diff
@@ -0,0 +1,49 @@
...
+namespace Nat
+
+/-- `Nat.superFactorial n` is the super factorial of `n`. -/
+@[simp]
+def superFactorial : ℕ → ℕ
+  | 0 => 1
+  | succ n => factorial n.succ * superFactorial n
+
+/-- `sf` notation for super factorial -/
+scoped notation  "sf" n => Nat.superFactorial n
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:28]: https://mathworld.wolfram.com/Superfactorial.html suggests `$` notation; I think a source for this notation would be good, even if the answer is just wikipedia.

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean (hunk 2 above)
Comment (mo271) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean:22]: I agree, see also  https://github.com/leanprover-community/mathlib4/pull/6840

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean (hunk 6 above)
Comment (mo271) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean:28]: I don't particularly care which notation we use, will add a reference in any case. Perhaps I make a poll on zulip?

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean (hunk 4 above)
Comment (mo271) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean:35]: Ok, will adjust the precedence

Comment (mo271) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean:36]: When `(sf n)` is left of the `=` the `()`s seem to be needed and I didn't manage to adjust the precedence to fix this.

Comment (mo271) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean]: ok, meanwhile, I fixed the precende, not entirely sure if "60" is a good value, but with that no `()`s are needed anymore.

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 7]
```diff
@@ -0,0 +1,52 @@
...
+/-!
+# Superfactorial
+
+This file defines the [superfactorial](https://en.wikipedia.org/wiki/Superfactorial)
+`1! * 2! * 3! * ...* n!`.
+
+## Main declarations
+
+* `Nat.superFactorial`: The superfactorial.
+-/
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:17]: This should mention the notation

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean:23]: I'm confused; if you agree, why have you resolved the comment but not removed the `simp`?

Comment (mo271) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean]: Ah, I had removed it at the lemma below  instead of here. Fixed.

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean (hunk 7 above)
Comment (mo271) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean]: Done

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean]: Is it even possible to use `$` as a notation? I thought it's reserved as a alias of `<|`.

Comment (mo271) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean]: Even if it was possible, it would be at least confusing. So let's stick with `sf` I guess...

**Comment by urkud** [comment]
LGTM. It looks like comments from other reviewers are resolved, so let's merge it.
bors merge
